US05185339
The Grignard reagent, generated from o-chlorobenzyl chloride (52.0 g, 0.32 moles) and magnesium turnings (8.4 g, 0.35 g atoms) in dry diethyl ether (350 ml), was added dropwise to a refluxing solution of 2-bromopyridine (34.2 g, 0.22 moles) and tetrakis(triphenylphosphine)palladium (0) (5.0 g) in dry diethyl ether (200 ml) under a nitrogen atmosphere. A white precipitate was produced and the reaction mixture was heated at reflux for 1 hour. After cooling to room temperature, 1N hydrochloric acid was added carefully to dissolve the white solid and the ether layer separated off. The ethereal extract was washed with 1N hydrochloric acid, neutralised with 2N sodium hydroxide solution, washed with water and dried over anhydrous magnesium sulphate. Removal of the solvent gave an orange oil which was purified by column chromatography (silica gel eluted with tetrahydrofuran:chloroform 5:95) to give 2-(o-chlorobenzyl)-pyridine (32 g, 73%) as a pale yellow oil.

reactant | o-chlorobenzyl chloride | 0.32 moles, 52.0 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | magnesium | 8.4 g | [Mg] | Mg
reactant | 2-bromopyridine | 0.22 moles, 34.2 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium | 5.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(o-chlorobenzyl)-pyridine | 32 g, 73% | ClC1=C(CC2=NC=CC=C2)C=CC=C1 | C12H10ClN
